US05734051
1,3-Di-cyclopropyl-8-amino Xanthine
1,3-Di-cyclopropyl-8-nitro xanthine (0.4 g, 0.0014 mol) was dissolved in methanol (20 ml) and treated with a sodium dithionite solution in water (0.5 g in 5 ml) at room temperature with stirring. After stirring for three hours the solvent was removed in vacuo, the residue taken up with dichloromethane and extracted with water (40 ml).

reactant | 1,3-Di-cyclopropyl-8-nitro xanthine | 0.0014 mol, 0.4 g | C1(CC1)N1C(=O)N(C=2N=C(NC2C1=O)[N+](=O)[O-])C1CC1 | C11H11N5O4
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml, 0.5 g | O | H2O
product | 1,3-Di-cyclopropyl-8-amino Xanthine | C1(CC1)N1C(=O)N(C=2N=C(NC2C1=O)N)C1CC1 | C11H13N5O2
